US08044001B2
Examples of suitable hydroxyalkylated ethylenediamines include, but are not limited to N,N,N′,N′-tetrakis-(2-hydroxypropyl)ethylenediamine and N,N,N′,N′-tetrakis-(hydroxyethyl)ethylenediamine. N-hydroxyethyl, N,N′,N′-tris(2-hydroxypropyl)ethylenediamine, and combinations of two or more thereof will not give solid. Preferably the hydroxyalkylated ethylenediamine is N,N,N′,N′-tetrakis-(2-hydroxypropyl)ethylenediamine or N,N,N′,N′-tetrakis-(hydroxyethyl)ethylenediamine. The hydroxyalkylated ethylene diamine, N,N,N′,N′-tetrakis-(2-hydroxypropyl)ethylenediamine, is available commercially, for example, from BASF Corporation, Mount Olive, N.J., under the name QUADROL polyol.

reactant | N,N,N′,N′-tetrakis-(2-hydroxypropyl)ethylenediamine | OC(CN(CCN(CC(C)O)CC(C)O)CC(C)O)C | C14H32N2O4
reactant | N,N,N′,N′-tetrakis-(hydroxyethyl)ethylenediamine | OCCN(CCN(CCO)CCO)CCO | C10H24N2O4
product | N,N′,N′-tris(2-hydroxypropyl)ethylenediamine | OC(CNCCN(CC(C)O)CC(C)O)C | C11H26N2O3
